US07235569B2
To a stirred suspension of LiAlH4 (200 mg, excess) in THF at 0° C., ethyl(-1-benzothiophene-3-yl)acetate (1.1 g, 5 mmol) in THF (20 mL) was added slowly. After the addition, the reaction mixture was stirred at room temperature for 1 hr and quenched with saturated NH4Cl solution. The product was extracted with chloroform and washed well with water. It was dried over anhydrous MgSO4; filtered and concentrated. The product, 2-(1-benzothiophene-3-yl)ethanol, was obtained as white oil pure enough and taken to the next step without purification. Yield: 850 mg (95%); 179 (M+H).

reactant | LiAlH4 | 200 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl(-1-benzothiophene-3-yl)acetate | 5 mmol, 1.1 g | C(C)OC(CC1=CSC2=C1C=CC=C2)=O | C12H12O2S
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(1-benzothiophene-3-yl)ethanol | S1C=C(C2=C1C=CC=C2)CCO | C10H10OS
